US06333431B1
To 3.2 g of ethyl 2-methyl-3,4,6-trifluorobenzoylacetate were added 3.0 g of acetic anhydride and 2.7 g of ethyl orthoformate, followed by heating and refluxing for 1 hour. The resulting mixture was concentrated to give 3.5 g of ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate.

reactant | ethyl 2-methyl-3,4,6-trifluorobenzoylacetate | 3.2 g | CC1=C(C(=O)CC(=O)OCC)C(=CC(=C1F)F)F | C12H11F3O3
reactant | acetic anhydride | 3.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl orthoformate | 2.7 g | C(OCC)([O-])[O-]
product | ethyl 2-(2-methyl-3,4,6-trifluorobenzoyl)-3-ethoxyacrylate | 3.5 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=CC(=C1F)F)F | C15H15F3O4
